US07553873B2
A solution of 4-[(Biphenyl-4-carbonyl)-amino]-5-hydroxy-pentanoic acid methyl ester (333 mg, 1.06 mmol) in THF (10 mL) and MeOH (1.27 mL) was added to 1N NaOH (1.27 mL, 1.27 mmol, 1.2 equiv) at room temperature. The mixture was stirred for 2 hours and TLC indicated the reaction was complete. Solvent was removed and the residue was dissolved in water. After adjusting the pH to 4 with 1N HCl, solid precipitated from the solution. The solid was then collected by filtration, washed with water, and dried under vacuum overnight to afford 240 mg of 4-[(Biphenyl-4-carbonyl)-amino]-5-hydroxy-pentanoic acid in 76.7% yield. MS (ESI) m/z 314.

reactant | 4-[(Biphenyl-4-carbonyl)-amino]-5-hydroxy-pentanoic acid methyl ester | 1.06 mmol, 333 mg | COC(CCC(CO)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C19H21NO4
reactant | NaOH | 1.27 mmol, 1N, 1.27 mL, 1.2 equiv | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.27 mL | CO | CH4O
product | 4-[(Biphenyl-4-carbonyl)-amino]-5-hydroxy-pentanoic acid | 240 mg, 76.7% yield | C1(=CC=C(C=C1)C(=O)NC(CCC(=O)O)CO)C1=CC=CC=C1 | C18H19NO4
